US06420546B1
5′-O-(Dimethoxytrityl)-4-N-acetyl-2′-fluoro-2′-deoxycytidine
4 mmol of 4-N-acetyl-2′-fluoro-2′-deoxycytidine are taken up in 25 ml of abs. pyridine in a 100 ml Schlenk flask and, at room temperature, 1.3 g (about 4.4 mmol) of dimethoxytrityl chloride and 20 mg of 4-dimethylaminopyridine are added. After three hours, 1 ml of methanol was added to the mixture, which was then evaporated to dryness in vacuo. The remaining oil is taken up in 50 ml of methylene chloride (deacidified over aluminum oxide) and extracted three times with 50 ml of water. The organic phase is dried over sodium sulfate. After the methylene chloride had been stripped off, the crude product remained as solid foam. The crude product is purified by chromatography on silica gel 60H (column 2×20 cm, mobile phase methylene chloride with 0.1% pyridine, gradient methanol). The product was eluted with 3% methanol in methylene chloride. After the solvent has been stripped off, 1.39 g (59% of theory) of a white foamy solid remain.

reactant | 4-N-acetyl-2′-fluoro-2′-deoxycytidine | 4 mmol | C(C)(=O)NC1=NC(N([C@H]2[C@@H]([C@H](O)[C@@H](CO)O2)F)C=C1)=O | C11H14FN3O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dimethoxytrityl chloride | about 4.4 mmol, 1.3 g | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC1)OC | C21H19ClO2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 1 ml | CO | CH4O
product | 5′-O-(Dimethoxytrityl)-4-N-acetyl-2′-fluoro-2′-deoxycytidine | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)N=C(NC(C)=O)C=C2)F)O)C=CC1)OC | C32H32FN3O7
